US06541638B2
BOC-glycine and methyl-4-methylaminobenzoate according to 1.2., followed by BOC-cleavage 3.1. to give 4-(Aminoacetyl-methyl-amino)-benzoic acid methyl ester as an orange gum (Rf 0.1 CH2Cl2:MeOH 9:1), MS: 222 (MH+).

reactant | BOC-glycine | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | methyl-4-methylaminobenzoate | COC(C1=CC=C(C=C1)NC)=O | C9H11NO2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 4-(Aminoacetyl-methyl-amino)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N(C)C(CN)=O)=O | C11H14N2O3
